US05041612
86.5 g (1.2 mol) of thionyl chloride were added dropwise to 300 ml of methanol at -10° C., and thereafter 36.9 g (0.32 mol) of 1-methylamino-cyclopropane-1-carboxylic acid were introduced in portions. Stirring was carried out for 5 hours at room temperature, and the mixture was allowed to stand overnight. The mixture was worked up by filtering it, evaporating down the filtrate in vacuo and heating the residue together with 7 g of active carbon for 10 minutes in methanol. After filtration and evaporation, 45.9 g (86.6% of theory) of methyl 1-methylamino-cyclopropane-1-carboxylate hydrochloride were obtained as a yellowish viscous oil of refractive index nD23.5 : 1.4798.

reactant | thionyl chloride | 1.2 mol, 86.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-methylamino-cyclopropane-1-carboxylic acid | 0.32 mol, 36.9 g | CNC1(CC1)C(=O)O | C5H9NO2
reactant | methanol | 300 ml | CO | CH4O
product | methyl 1-methylamino-cyclopropane-1-carboxylate hydrochloride | 45.9 g, 86.6% | Cl.CNC1(CC1)C(=O)OC | InChI=1S/C6H11NO2.ClH/c1-7-6(3-4-6)5(8)9-2;/h7H,3-4H2,1-2H3;1H
